US04256751
3.73 g of tert.-butyl (3S)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate, 3.58 g of 3-benzoylthio-2-methylpropionic acid and 2.16 g of 1-hydroxybenzotriazole are dissolved in 60 ml of tetrahydrofuran, and a solution of 3.3 g of dicyclohexylcarbodiimide in 10 ml of tetrahydrofuran is added dropwise thereto at -15° C. After said dropwise addition, the mixture is stirred at a temperature below -10° C. for 3 hours and then at room temperature overnight. Insoluble materials are removed by filtration. The filtrate is distilled under reduced pressure to remove solvent. Water is added to the residue obtained, and the aqueous mixture is extracted with ethyl acetate. The extract is washed with an aqueous 3 % citric acid solution, water, an aqueous sodium bicarbonate solution and water, sucessively. Then, the extract is dried and distilled to remove solvent. The residue thus obtained is purified by silica gel column chromatography. 5.18 g of ter.-butyl (3S)-2-(3-benzoylthio-2-methylpropionyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate are thereby obtained as colorless oil.

reactant | tert.-butyl (3S)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 3.73 g | C1N[C@@H](CC2=CC=CC=C12)C(=O)OC(C)(C)C | C14H19NO2
reactant | 3-benzoylthio-2-methylpropionic acid | 3.58 g | C(C1=CC=CC=C1)(=O)SCC(C(=O)O)C | C11H12O3S
reactant | 1-hydroxybenzotriazole | 2.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 3.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | butyl (3S)-2-(3-benzoylthio-2-methylpropionyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | Yield: 73.7 % | C(C1=CC=CC=C1)(=O)SCC(C(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)OCCCC)C | C25H29NO4S
